US05025031
Sulfamic acid 4-(1H-imidazol-1-yl)phenyl ester
To a chilled solution of chlorosulfonyl isocyanate (8.7 ml, 0.10 mole) in 50 ml of methylene chloride was added a solution of 10.8 g (0.10 mole) of benzyl alcohol in 200 ml of methylene chloride over a period of 6 minutes at 3°-15° C. The reaction was then stirred at ambient temperature for 2 hours and then chilled in an ice-water bath. To this solution was added 4-(imidazol-1-yl)phenol (12 g, 0.075 mole) as a solid, and the mixture was stirred at room temperature for 45 minutes. Triethylamine (14 ml, 0.1 mole) was then added to the suspension, and the reaction became a dark brown solution. The mixture was stirred for two days, and the solid was collected by filtration, stirred in water for half an hour, and filtered again, rinsed with isopropyl alcohol and isopropyl ether. This solid intermediate weighed 18.24 g (65%) and 1H NMR showed it exists as the zwitterion. The zwitterion (18 g) was added to a solution of isopropyl alcohol containing 0.05 mole hydrogen chloride and diluted with 100 ml methanol. The resultant solution was mixed with 1.8 g Pd-C (5%) and hydrogenated until there was no further absorption of hydrogen. The catalyst was removed, and the solution was concentrated to give 10 g solid. Part of the solid was recrystallized by dissolving in excess amount of methanol, filtering, and concentrating to crystallize about 5 g solid. The solid was dried in vacuum oven at 80° C. overnight, mp 198°-200° C.

reactant | chlorosulfonyl isocyanate | 0.10 mole, 8.7 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | benzyl alcohol | 0.10 mole, 10.8 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 4-(imidazol-1-yl)phenol | 0.075 mole, 12 g | N1(C=NC=C1)C1=CC=C(C=C1)O | C9H8N2O
reactant | Triethylamine | 0.1 mole, 14 ml | C(C)N(CC)CC | C6H15N
reactant | isopropyl alcohol | 0.05 mole | C(C)(C)O | C3H8O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd-C | 1.8 g | [Pd] | Pd
product | Sulfamic acid 4-(1H-imidazol-1-yl)phenyl ester | 10 g | N1(C=NC=C1)C1=CC=C(C=C1)OS(N)(=O)=O | C9H9N3O3S
